US09416132B2
To a solution of 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine (200 mg, 0.78 mmol) and (S)-Piperidin-3-amine (290 mg, 2.12 mmol) in NMP (1.0 mL) was added NaHCO3 (118 mg, 1.52 mmol), the mixture was stirred at 180° C. for 60 mins under microwave irridation. The mixture was purified by flash chromatograph to give (S)-1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)piperidin-3-amine (32 mg, 0.098 mmol, 13%) as a pale yellow solid.

reactant | 6-chloro-3-(3-chlorophenyl)imidazo[1,2-b]pyridazine | 0.78 mmol, 200 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)Cl | C12H7Cl2N3
reactant | (S)-Piperidin-3-amine | 2.12 mmol, 290 mg | N1C[C@H](CCC1)N | C5H12N2
reactant | NaHCO3 | 1.52 mmol, 118 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 1.0 mL | CN1CCCC1=O | C5H9NO
product | (S)-1-(3-(3-chlorophenyl)imidazo[1,2-b]pyridazin-6-yl)piperidin-3-amine | 0.098 mmol, 32 mg, 13% | ClC=1C=C(C=CC1)C1=CN=C2N1N=C(C=C2)N2C[C@H](CCC2)N | C17H18ClN5
